2144-09-22 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Got 1u PRBC w/ lasix
   - Levophed weaned
   - CT chest/abd/pelvis showed multifocal PNA, no e/o abscess
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2144-9-21**] 12:30 PM
   Ceftazidime - [**2144-9-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-9-21**] 05:01 PM
   Heparin Sodium (Prophylaxis) - [**2144-9-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-22**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 76 (62 - 78) bpm
   BP: 110/46(62) {93/40(56) - 122/89(92)} mmHg
   RR: 24 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 19 (12 - 19)mmHg
   CO/CI (Fick): (5 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 53 - 53
   Total In:
                                                                  2,035 mL
                                                                     78 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                  1,030 mL
                                                                     78 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,075 mL
                                                                    196 mL
   Urine:
                                                                  1,075 mL
                                                                    196 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.36/42/36/21/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.4 g/dL
   100 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   28 mg/dL
   111 mEq/L
   140 mEq/L
   29
   19.1 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:52 AM
                             [**2144-9-21**]  05:35 PM
                             [**2144-9-21**]  10:33 PM
                             [**2144-9-22**]  03:59 AM
                             [**2144-9-22**]  04:20 AM
   WBC
   42.2
   23.7
   19.1
   Hct
   25.3
   27.5
   26.5
   29
   Plt
   [**Telephone/Fax (3) 4485**]
   Cr
   1.8
   1.7
   1.8
   1.7
   TropT
   0.09
   TCO2
   25
   Glucose
   121
   134
   128
   100
   Other labs: PT / PTT / INR:31.9/46.0/3.3, CK / CKMB /
   Troponin-T:40//0.09, Differential-Neuts:87.4 %, Lymph:7.0 %, Mono:3.6
   %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: Prelim Chest/abd/pelvis:
   1. Areas of patchy consolidation in bilateral lungs consistent with
   multifocal pneumonia with associated bilateral pleural effusions.
   2. No evidence of abscess or colitis, however, study is limited
   secondary to
   lack of intravenous contrast, and secondary to artifact from right hip.
   3. Central venous catheter with tip in SVC.
   Microbiology: Bld cx [**9-20**] - pending
   Ucx [**9-20**] - pending
   Assessment and Plan
   81 year-old man with CAD s/p CABG, recent hospitalization for elective
   hip repair complicated by post-operative cardiogenic shock & PEA
   arrest, who presents from rehab with fever & hypotension in setting of
   UTI.
   .
   # Shock:  Resolved.  Pt off of pressor.  Suspect primary cause was
   sepsis w/ some cardiogenic component based on low SvO2.  Sepsis source
   likely urinary + pulm
pt w/ e/o multifocal PNA on CT as well as + UA.
   Cdiff negative thus far.  Regarding cardiogenic component
echo w/o
   evidence of acute MI.  EF stable.
   - Con't ceftaz/linezolid/flagyl for broad coverage
   - F/u bld & urine cx
   - Appreciate ortho team input to let them know pt admitted & febrile
   (wound looks clean)
   .
   # <b>Hypotension</b>: Pt & family report baseline BP in 90s-100s.
   However, pt's BP into the 80s in ED.  Pt asx w/ this, mentating clearly
   & making some urine.  Suspect drop in BP may be related to sepsis.
   However, cardiogenic shock also possible.  Trop is elevated at 0.11
   (last level was from [**9-3**] & was ~6.0).  CK nml.  EKG w/ some mild
   changes in lateral precordial leads, though no evolution.   No clear
   trigger/cause for neurogenic shock or adrenal insufficiency.
   - Bolus 500cc & try weaning levophed
   - Repeat CE
   - Echo
   - hold bp meds
   .
   # <b>Volume Overload</b>: Pt grossly overloaded--e/o pl effusions, some
   pulm edema, gross LE edema.  Pt's wt reportedly up over last few wks
   per his report--baseline wt ~175; was low 200s prior to admission.
   - check albumin
   - check BNP
   - monitor weights/I&O
   - consider diuresis once BP stabilized
   .
   # <b>Anemia</b>: baseline hct varies, though predominantly in 30s.
   Last hct was mid-20s.  Currently 27.
   - monitor; transfuse if e/o end-organ damage or hct dropping
   precipitously
   .
   # <b>CRF</b>: stable.  Con't to monitor crt.
   .
   # <b>FEN</b>: Regular cardiac diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-9-21**] 01:22 AM
   20 Gauge - [**2144-9-21**] 01:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-09-22 12:06:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tx 1 UPRBC for low mixed venous and anemia
   Lasix - good UOP but still tachypneic and dyspneic
   PO Contrast Torso- multifocal PNA no abscess
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2144-9-21**] 12:30 PM
   Ceftazidime - [**2144-9-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-9-21**] 05:01 PM
   Heparin Sodium (Prophylaxis) - [**2144-9-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: tachypnea, dyspnea
   Flowsheet Data as of  [**2144-9-22**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 81 (62 - 91) bpm
   BP: 106/56(68) {93/40(56) - 135/67(80)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 16 (12 - 19)mmHg
   Total In:
                                                                  2,035 mL
                                                                    121 mL
   PO:
                                                                    630 mL
   TF:
   IVF:
                                                                  1,030 mL
                                                                    121 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,075 mL
                                                                    296 mL
   Urine:
                                                                  1,075 mL
                                                                    296 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/42/36/21/-1
   Physical Examination
   General Appearance: lying in bed dyspneic but able to speak in full
   sentences
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic,
   Cardiovascular: RR loud S2 soft [**3-11**] sys murmur
   Chest: bibasilar rales
   Abd: soft NT + BS
   Skin:  warm
   Neurologic: Attentive, following commands
   Labs / Radiology
   CXR: persistent interstitial edema and retrocardiac opacity
 stable
   since yesterday
   9.8 g/dL
   224 K/uL
   100 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.5 mEq/L
   28 mg/dL
   111 mEq/L
   140 mEq/L
   29.7 %
   18.1 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:52 AM
                             [**2144-9-21**]  05:35 PM
                             [**2144-9-21**]  10:33 PM
                             [**2144-9-22**]  03:59 AM
                             [**2144-9-22**]  04:20 AM
                             [**2144-9-22**]  09:45 AM
   WBC
   42.2
   23.7
   19.1
   18.1
   Hct
   25.3
   27.5
   26.5
   29
   29.7
   Plt
   [**Telephone/Fax (3) 4487**]24
   Cr
   1.8
   1.7
   1.8
   1.7
   TropT
   0.09
   TCO2
   25
   Glucose
   121
   134
   128
   100
   Other labs: PT / PTT / INR:17.9/39.5/1.6, CK / CKMB /
   Troponin-T:40//0.09, Differential-Neuts:87.4 %, Lymph:7.0 %, Mono:3.6
   %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Echo: LVEF 45-50%, mild global HK, [**2-5**]+ MR
   Assessment and Plan
   1. Shock: mixed picture with likely septic component with fevers,
   profound leukocytosis - sources urine, PNA, c diff.
 though all
   cultire data is neg to date.  ScVo2 is 53%. Able to wean the pressors
   off and now left with more of a cardiogenic component. Since BP are OK
   and he is volume overloaded- woud push lasix
 goal 1-2L. Follow SCvo2
   and MAPs
   In terms of septic source
 likely urine but also hx of VRE and
   following cx. Continue Zosyn and Ceftaz for at least 48  hrs until cx
   negative.
   2. ARF: good urine output with lasix and Cr was stable and at baseline.
   Will need to watch with more lasix.
   3. Anemia : stable after transfusion
   Remainder of issues as per Housestaff notes
   ICU Care
   Nutrition: [**Doctor First Name 470**] diet
   Glycemic Control: ssri
   Lines:
   Multi Lumen - [**2144-9-21**] 01:22 AM
   20 Gauge - [**2144-9-21**] 01:22 AM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   Code status: Full code
   Disposition : ICU for Rx of decompensated systolic heart failure and IV
   diuresis with invasive hemodynamic monitoring
   Total time spent: 45

2144-09-23 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on lasix gtt ~8pm last night & pt has put out >2.5L of urine
   over approx 12hr.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2144-9-22**] 10:00 PM
   Daptomycin - [**2144-9-22**] 11:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-9-22**] 12:07 PM
   Other medications:
   Flowsheet Data as of  [**2144-9-23**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 82 (70 - 91) bpm
   BP: 127/59(75) {93/52(67) - 137/76(84)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (7 - 19)mmHg
   Total In:
                                                                  1,733 mL
                                                                    163 mL
   PO:
                                                                  1,130 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    603 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,986 mL
                                                                  1,530 mL
   Urine:
                                                                  1,986 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -253 mL
                                                                 -1,367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen:NAD, tachypneic, a&ox3
   HEENT: NCAT, PERRL, sclera anicteric, OP clear, MMM
   Neck: Supple, no LAD, no JVD
   CV: RRR S1/S2, no m/r/g
   Resp: Crackles b/l bases, w/ crackles up to ~[**4-7**] way on L
   Abdomen: Soft, NTND, BS+
   Ext: [**3-8**]+ LE pitting edema up to flanks.  DP pulses are 2+ bilaterally
   Neuro: A + O x 3, CN II-XII grossly intact, Motor [**6-8**] both upper and
   lower extremities
   Skin: Pink, warm, no rashes; R hip wound intact, clean
   Labs / Radiology
   207 K/uL
   9.2 g/dL
   125 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   26 mg/dL
   107 mEq/L
   139 mEq/L
   26.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:52 AM
                             [**2144-9-21**]  05:35 PM
                             [**2144-9-21**]  10:33 PM
                             [**2144-9-22**]  03:59 AM
                             [**2144-9-22**]  04:20 AM
                             [**2144-9-22**]  09:45 AM
                             [**2144-9-23**]  04:10 AM
   WBC
   42.2
   23.7
   19.1
   18.1
   13.8
   Hct
   25.3
   27.5
   26.5
   29
   29.7
   26.9
   Plt
   [**Telephone/Fax (3) 4487**]24
   207
   Cr
   1.8
   1.7
   1.8
   1.7
   1.6
   Glucose
   121
   134
   128
   100
   125
   Other labs: PT / PTT / INR:17.2/39.5/1.6, CK / CKMB /
   Troponin-T:40//0.09, Differential-Neuts:87.4 %, Lymph:7.0 %, Mono:3.6
   %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 year-old man with CAD s/p CABG, recent hospitalization for elective
   hip repair complicated by post-operative cardiogenic shock & PEA
   arrest, who presents from rehab with septic/cardiogenic shock in
   setting of Ecoli bacteremia.
   .
   # Acute on Chronic Systolic Heart Failure: Pt grossly overloaded--e/o
   pl effusions, pulm edema, gross LE edema up to flanks, which was
   present prior to admission & volume resuscitation.  Weight is up
   approximately 20-30lb since he had his R hip repair at the end of [**Month (only) 591**]
   (his pre-op weight was 175lb and wt on admission to MICU 198lb).  BNP
   35,000.  Suspect he has been overloaded since last hospitalization.  EF
   stable at 45-50% w/ mild global LV hypokinesis.  No e/o acute MI.
   - Diurese today w/ goal I/O (-) 1-2L/day (would aim to diurese ~20lb,
   approaching dry weight)
   - monitor weights/I&O
   - Con't hold BB & lisinopril for now given hypotension on admission &
   aggressive nature of diuresis; add back as tolerated
   - Low Na diet
   .
   # Shock:  Resolved.  Pt off of pressors >48hr.  Suspect primary cause
   was sepsis due to Ecoli bacteremia.  WBC coming down & pt afebrile on
   abx.  Suspect Also, evidence of cardiogenic component to shock w/ low
   SvO2.  However, echo w/o evidence of acute MI &  EF stable.
   - Con't ceftazidime for Ecoli tx, until sensitivities back (call [**Hospital 4519**] Hospital at [**Telephone/Fax (1) 4520**] for bld cx results).  Will d/c dapto &
   flagyl.
   - F/u bld & urine cx
   - hold BP meds for now as diuresing
   # Hematuria: Transient. Due to foley trauma prior to presentation.
   Foley changed at OSH ED.
   - keep foley in while diuresing aggressively
   - consider urology consult once foley removed before discharge, if pt
   unable to void appropriately. (Of note, pt had foley dc'd on day of
   discharge on recent hospital stay, and could not void normally once he
   got to rehab, so foley had to be replaced.)
   # Anemia: baseline hct varies, though predominantly in 30s.  Last hct
   was mid-20s.  Currently ~27.
   - monitor; transfuse if e/o end-organ damage or hct dropping
   precipitously
   # CRF: Baseline ~1.4-1.6.  Stable.  Con't to monitor crt & dose meds
   renally.
   # s/p R hip replacement: appears to be healing well.  Staples removed.
   - PT consult
   - Con't DVT ppx w/ coumadin for 4.5wk s/p surgery (end date [**2144-11-3**] per
   ortho; however, this is longer than 4.5wk--need to clarify)
   - appreciate Dr. [**Last Name (STitle) 4453**]/ortho team recs
   # Acccess: PIV; RIJ removed
   # Code<: Full -- confirmed w/ patient and wife
   # Communication</b>: Pt & wife (who is HCP); however, dtr is to be
   called first in setting of emergency
   # Dispo: To [**Hospital Ward Name **] 3, where he can continue lasix gtt.  Ortho requesting
   that pt be sent to [**Hospital 12**] Rehab on discharge.
   ICU Care
   Nutrition: Regular cardiac diet
   Multi Lumen - [**2144-9-21**] 01:22 AM
   20 Gauge - [**2144-9-21**] 01:22 AM
   Prophylaxis:
   DVT: Ortho recommends Coumadin for INR 2-2.5 until [**2144-11-3**], however, pt
   given Vit K on admission b/c of supratherapeutic INR & hematuria.  Will
   restart coumadin.
   Stress ulcer: frequent repositioning
   Communication:  Pt & Wife [**Name (NI) 789**]

2144-09-23 10:34:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-9-22**] 10:21 AM
 ULTRASOUND - At [**2144-9-22**] 03:50 PM
   Started on lasix drip with good effect, less dyspneic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2144-9-22**] 10:00 PM
   Daptomycin - [**2144-9-22**] 11:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-9-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-23**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 81 (70 - 91) bpm
   BP: 158/74(92) {93/52(68) - 158/81(95)} mmHg
   RR: 19 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 10 (7 - 18)mmHg
   Total In:
                                                                  1,733 mL
                                                                    448 mL
   PO:
                                                                  1,130 mL
                                                                    290 mL
   TF:
   IVF:
                                                                    603 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,986 mL
                                                                  2,180 mL
   Urine:
                                                                  1,986 mL
                                                                  2,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -253 mL
                                                                 -1,732 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: sitting up in chair, watching tv
   RR
   Bibasilar rales
   Abd soft NT + BS
   Ext 3+ pedal edema
   Labs / Radiology
   9.2 g/dL
   207 K/uL
   125 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   26 mg/dL
   107 mEq/L
   139 mEq/L
   26.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2144-9-21**]  05:52 AM
                             [**2144-9-21**]  05:35 PM
                             [**2144-9-21**]  10:33 PM
                             [**2144-9-22**]  03:59 AM
                             [**2144-9-22**]  04:20 AM
                             [**2144-9-22**]  09:45 AM
                             [**2144-9-23**]  04:10 AM
   WBC
   42.2
   23.7
   19.1
   18.1
   13.8
   Hct
   25.3
   27.5
   26.5
   29
   29.7
   26.9
   Plt
   [**Telephone/Fax (3) 4487**]24
   207
   Cr
   1.8
   1.7
   1.8
   1.7
   1.6
   TropT
   0.09
   TCO2
   25
   Glucose
   121
   134
   128
   100
   125
   Other labs: PT / PTT / INR:17.2/39.5/1.6, CK / CKMB /
   Troponin-T:40//0.09, Differential-Neuts:87.4 %, Lymph:7.0 %, Mono:3.6
   %, Eos:1.8 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   1.       Shock: mixed picture initially - with likely septic component
   with fevers, profound but also cardiogenic. ScVo2 was 53%. Now
   hemodynamically stable but with decompensated heart failure.
   2.       Decompensated heart Failure: lasix gtts, goal 2L neg per day,
   trend creatine,
   3.       Presumed sepsis:In terms of septic source
outside hospital
   blood cultures positive for E coli
AWAITING SENSI
 KEEP Ceftaz, d/c
   Daptomycin,
   4.       ARF: good urine output with lasix and Cr was stable and at
   baseline. Will need to watch with more lasix.
   5.       Anemia : stable after transfusion, anticoagulated as per Ortho
   desire for full anti coag another 4 weeks post op
   Remainder of issues as per Housestaff notes
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  ssri
   Lines:
   Multi Lumen - [**2144-9-21**] 01:22 AM
 d/c CVl today
   20 Gauge - [**2144-9-21**] 01:22 AM
   Prophylaxis:
   DVT: Boots
   Communication:  pt and family
   Code status: Full code
   Disposition :Transfer to floor if can take lasix drip
   Total time spent: 45